US06403175B1
3-glycidyloxypropyltrimethoxysilane
CH2═C(CH3)—COO—C3H6—Si(OCH3)3, CH2═CH—COO—C3H6—Si(OC2H5)3, 3-cyanopropyltrimethoxysilane, 3-cyanopropyltriethoxysilane, 3-isocyanatopropyltriethoxysilane, ureidopropyltrimethoxysilane, 3-thiocyanatopropyltrimethoxysilane, 3mercaptopropyltrimethoxysilane, 3-mercaptopropyltriethoxysilane, 3-mercaptopropylmethyldimethoxysilane, 4-mercaptobutyltrimethoxysilane, 6-mercaptohexyltrimethoxysilane, 3-chloropropyltrimethoxysilane and (C2H5O)3Si(CH2)3—S4—(CH2)3Si(OC2H5)3.

reactant | CH2═C(CH3)—COO—C3H6—Si(OCH3)3 | C=C(C)C(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
reactant | CH2═CH—COO—C3H6—Si(OC2H5)3 | C=CC(=O)OCCC[Si](OCC)(OCC)OCC | C12H24O5Si
reactant | 3-cyanopropyltrimethoxysilane | C(#N)CCC[Si](OC)(OC)OC | C7H15NO3Si
reactant | 3-cyanopropyltriethoxysilane | C(#N)CCC[Si](OCC)(OCC)OCC | C10H21NO3Si
reactant | 3-isocyanatopropyltriethoxysilane | N(=C=O)CCC[Si](OCC)(OCC)OCC | C10H21NO4Si
reactant | ureidopropyltrimethoxysilane | N(C(=O)N)CCC[Si](OC)(OC)OC | C7H18N2O4Si
reactant | 3-thiocyanatopropyltrimethoxysilane | S(C#N)CCC[Si](OC)(OC)OC | C7H15NO3SSi
reactant | 3mercaptopropyltrimethoxysilane | SCCC[Si](OC)(OC)OC | C6H16O3SSi
reactant | 3-mercaptopropyltriethoxysilane | SCCC[Si](OCC)(OCC)OCC | C9H22O3SSi
reactant | 3-mercaptopropylmethyldimethoxysilane | SCCC[Si](OC)(OC)C | C6H16O2SSi
reactant | 4-mercaptobutyltrimethoxysilane | SCCCC[Si](OC)(OC)OC | C7H18O3SSi
reactant | 6-mercaptohexyltrimethoxysilane | SCCCCCC[Si](OC)(OC)OC | C9H22O3SSi
reactant | 3-chloropropyltrimethoxysilane | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
product | 3-glycidyloxypropyltrimethoxysilane | C(C1CO1)OCCC[Si](OC)(OC)OC | C9H20O5Si
